US07572792B2
A solution of 1-(propylsulfonyl)-3-pyridin-2-ylazetidine-3-carbonitrile (II-1, 379 mg, 1.43 mmol) in 2 M NH3/MeOH (50 mL) was treated with excess Raney Ni and agitated under an atmosphere of H2 (40 psi) in a Parr apparatus. After 5 h, the reaction was filtered through Celite (MeOH wash) and concentrated under reduced pressure to afford 1-[1-(propylsulfonyl)-3-pyridin-2-ylazetidin-3-yl]methanamine (II-2) as a yellow oil. Analytical LCMS: single peak (214 nm), 1.791 min. This material was used in subsequent reactions without further purification.

reactant | 1-(propylsulfonyl)-3-pyridin-2-ylazetidine-3-carbonitrile | 1.43 mmol, 379 mg | C(CC)S(=O)(=O)N1CC(C1)(C#N)C1=NC=CC=C1 | C12H15N3O2S
solvent | NH3 MeOH | 2 M, 50 mL | N.CO
catalyst | Ni | [Ni] | Ni
product | 1-[1-(propylsulfonyl)-3-pyridin-2-ylazetidin-3-yl]methanamine | C(CC)S(=O)(=O)N1CC(C1)(C1=NC=CC=C1)CN | C12H19N3O2S
